US07163947B2
A solution of N-(3-{[4-amino-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]amino}propyl)-2-methylpropanamide (0.450 g, 1.17 mmol) in 25 mL of TFA was treated with platinum (IV) oxide (0.266 g, 1.17 mmol). The reaction mixture was shaken under an atmosphere of hydrogen (3.8×105 Pa) at ambient temperature. After 17 h, the reaction mixture was filtered through a pad of CELITE filter agent and rinsed with portions of 4:1 CHCl3:MeOH (1% TFA). The filtrate was concentrated under reduced pressure to yield a white oil. The oil was suspended in a minimum amount of H2O and treated with 50% NaOH solution until the pH was 13. A white solid precipitated and was triturated in the basic H2O for 1 h and then filtered to yield a sticky white solid. The solid was then triturated with Et2O for 2 h, filtered and dried to yield N-(3-{[4-amino-2-(ethoxymethyl)-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-1-yl]amino}propyl)-2-methylpropanamide (0.237 g) as a white solid. mp 163–165° C.; 1H NMR (500 MHz, DMSO-d6) δ 7.69 (t, J=5.5 Hz, 1H), 6.31 (t, J=5.9 Hz, 1H), 5.80 (s, 2H), 4.61 (s, 2H), 3.55 (q, J=7.0 Hz, 2H), 3.15–3.11 (m, 2H), 3.04–3.00 (m, 4H), 2.66 (t, J=5.7 Hz, 2H), 2.31 (h, J=6.8 Hz, 1H), 1.81–1.69 (m, 4H), 1.62 (p, J=7.1 Hz, 2H), 1.14 (t, J=7.0 Hz, 3H), 0.98 (d, J=6.9 Hz, 6H); 13C NMR (75 MHz, DMSO-d6) δ 176.3, 149.9, 149.3, 147.0, 137.6, 122.7, 105.4, 65.7, 63.3, 51.7, 36.6, 34.4, 32.5, 28.0, 23.3, 23.0, 22.4, 19.9, 15.3; MS (ESI) m/z 389 (M+H)+; Anal. Calcd for C20H32N6O2: C, 61.83; H, 8.30; N, 21.63; Found: C, 61.63; H, 8.23; N, 21.55.

reactant | N-(3-{[4-amino-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]amino}propyl)-2-methylpropanamide | 1.17 mmol, 0.450 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2NCCCNC(C(C)C)=O)COCC | C20H28N6O2
reactant | H2O | O | H2O
reactant | NaOH | [OH-].[Na+]
solvent | TFA | 25 mL | C(=O)(C(F)(F)F)O | C2HF3O2
catalyst | platinum (IV) oxide | 1.17 mmol, 0.266 g | [Pt](=O)=O
product | N-(3-{[4-amino-2-(ethoxymethyl)-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-1-yl]amino}propyl)-2-methylpropanamide | 0.237 g | NC1=NC=2CCCCC2C2=C1N=C(N2NCCCNC(C(C)C)=O)COCC | C20H32N6O2
